US06174889B1
(5[4(1-Benzyl-1H-indazol-5-ylamino)-pyrido-[3,4-d]pyrimidin-6-yl)-furan-2-carboxylic acid hydrochloride
(1-Benzylindazol-5-yl)-(6-(5-(4-methyl-2,6,7-trioxa-bicyclo[2,2,2]oct-1-yl)-furan-2-yl]-pyrido-[3,4-d]pyrimidin-4-yl)-amine (0.445 g, 0.81 mmol) was suspended in a mixture of THF (15 ml) and dilute HCl (15 ml) and stirred at room temperature for 18 hours. The mixture was diluted with water to preciptate the intermediate (partial hydrolysis) which was collected by filtration and washed with water. This solid was suspended in a mixture of THF (10 ml) and NaOH (1M, 10 ml) and stirred at room tmperature for 18 hours. The THF was removed in vacuo and the residue was acidified to pH1 with dilute HCl to give the product as an orange solid, which was collected by filtration (0.322 g, 0.645 mmol, 79%); δH [2H6]DMSO 10.63(1H,s), 9.19(1H,s), 8.89(1H,s), 8.64 (1H,s), 8.17-8.22 (2H,m), 7.67-7.80 (2H,m), 7.46 (1H,s), 7.23-7.39 (6H,m), 5.70 (2H,s); m/z (M+1+) 463.

reactant | (1-Benzylindazol-5-yl)-(6-(5-(4-methyl-2,6,7-trioxa-bicyclo[2,2,2]oct-1-yl)-furan-2-yl]-pyrido-[3,4-d]pyrimidin-4-yl)-amine | 0.81 mmol, 0.445 g | C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=NC(=C2)C=2OC(=CC2)C21OCC(CO2)(CO1)C | C31H26N6O4
reactant | HCl | 15 ml | Cl | ClH
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 5[4(1-Benzyl-1H-indazol-5-ylamino)-pyrido-[3,4-d]pyrimidin-6-yl)-furan-2-carboxylic acid hydrochloride | Cl.C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=NC(=C2)C2=CC=C(O2)C(=O)O | InChI=1S/C26H18N6O3.ClH/c33-26(34)24-9-8-23(35-24)20-11-19-21(13-27-20)28-15-29-25(19)31-18-6-7-22-17(10-18)12-30-32(22)14-16-4-2-1-3-5-16;/h1-13,15H,14H2,(H,33,34)(H,28,29,31);1H
